US04935473
SYNTHETIC EXPERIMENTAL EXAMPLE 3 (Synthesis of Paraphenylene Sulfide-Metaphenylene Sulfide Block Copolymer)
The results of analysis of the block copolymers with infrared absorption spectra indicate that the ratio of paraphenylene sulfide to metaphenylene sulfide of each of the copolymers was 85:15.

reactant | paraphenylene sulfide | C12=CC=C(C=C1)S2 | C6H4S
reactant | metaphenylene sulfide | C12=CC(=CC=C1)S2 | C6H4S
product | Paraphenylene Sulfide Metaphenylene Sulfide | C12=CC=C(C=C1)S2.C12=CC(=CC=C1)S2 | 2C6H4S
